US08754229B2
Preparation of methyl 4-amino-6-chloro-3-methoxypicolinate (Compound 1)
Methyl 4,6-dichloro-3-methoxypicolinate (320 mg, 1.4 mmol) was dissolved in dry N,N-dimethylformamide (DMF; 5 mL), treated with sodium azide (130 mg, 2.0 mmol) and heated at 50° C. for 5 h. After cooling, the mixture was shaken with EtOAc (20 mL) and H2O (10 mL). The organic phase was washed with H2O (2×10 mL) and satd aq NaCl (1×10 mL), dried (Na2SO4) and evaporated. This material was dissolved in methyl alcohol (CH3OH; 15 mL), treated with sodium borohydride (NaBH4; 55 mg, 1.4 mmol) and stirred at 20° C. for 1 h. The mixture was treated with H2O (10 mL), and the volatiles were removed under vacuum. The residue was taken up in EtOAc (25 mL), washed with H2O (10 mL) and satd aq sodium chloride (NaCl; 10 mL), dried (Na2SO4), and evaporated to give the desired product as a white solid (100 mg, 33%): mp 78-79° C.; 1H NMR (400 MHz, CDCl3) δ 6.76 (s, 1H), 4.84 (s, 2H), 3.95 (s, 3H), 3.87 (s, 3H); EIMS m/z 216.

reactant | Methyl 4,6-dichloro-3-methoxypicolinate | 1.4 mmol, 320 mg | ClC1=C(C(=NC(=C1)Cl)C(=O)OC)OC | C8H7Cl2NO3
reactant | sodium azide | 2.0 mmol, 130 mg | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
reactant | sodium borohydride | 1.4 mmol, 55 mg | [BH4-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | methyl 4-amino-6-chloro-3-methoxypicolinate | 100 mg, 33% | NC1=C(C(=NC(=C1)Cl)C(=O)OC)OC | C8H9ClN2O3
